US04906634
4-[2-(Cyclopentyl)ethyl]-1-(4-nitrophenyl)-hexahydro1H-1,4-diazepin-2-one
In a manner similar to Preparation 13 react N-[2 (cyclopentyl)ethyl]-N'-(4-nitrophenyl)-N-(phenylmethyl)1,3-propanediamine with chloroacetyl chloride to obtain the title compound.

reactant | N-[2 (cyclopentyl)ethyl]-N'-(4-nitrophenyl)-N-(phenylmethyl)1,3-propanediamine | C1(CCCC1)CCN(CCCNC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1 | C23H31N3O2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 4-[2-(Cyclopentyl)ethyl]-1-(4-nitrophenyl)-hexahydro1H-1,4-diazepin-2-one | C1(CCCC1)CCN1CC(N(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H25N3O3
